US04411828
55.0 g (0.275 mole) of 20% aqueous sodium hydroxide solution was added dropwise to a mixture of 90.0 g (0.5 mole) of tricyclo[5.2.1.02,6 ]decane-2-carboxylic acid (mixture of endo and exo compounds) and 84.8 g (0.55 mole) of diethyl sulfate over one hour under stirring at 50 C.°. After completion of the addition, the stirring was continued at that temperature for 30 minutes. After completion of the stirring, the mixture was allowed to stand at room temperature for a while to form layers. The lower aqueous layer was taken out. The temperature was elevated again to 50 C.°. 55.0 g (0.275 mole) of a 20% aqueous sodium hydroxide solution was added dropwise to the remainder over one hour under stirring at that temperature for 30 minutes. Then, 16.5 g (0.0825 mole) of 20% aqueous sodium hydroxide solution was added thereto and the whole reaction mixture was stirred at 100 C.° for 45 minutes in order to decompose unreacted diethyl sulfate. The mixture was allowed to cool and divided into layers. After the distillation, 93.6 g (yield 90.0%) of pure ethyl tricyclo[5.2.1.02,6 ]decane-2-carboxylate was obtained.

reactant | sodium hydroxide | 0.275 mole, 55.0 g | [OH-].[Na+]
reactant | tricyclo[5.2.1.02,6 ]decane-2-carboxylic acid | 0.5 mole, 90.0 g | C12C3(CCCC3C(CC1)C2)C(=O)O | C11H16O2
reactant | diethyl sulfate | 0.55 mole, 84.8 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | sodium hydroxide | 0.0825 mole, 16.5 g | [OH-].[Na+]
product | ethyl tricyclo[5.2.1.02,6 ]decane-2-carboxylate | 93.6 g, yield 90.0% | C12C3(CCCC3C(CC1)C2)C(=O)OCC | C13H20O2
